data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2775,3084,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28]([C:29]#[N:30])=[N+:31]([CH3:32])[CH-:33][c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[CH:33]([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[N:31]([CH3:32])[C:28]2([C:26]([O:25][CH3:24])=[O:27])[C:29]#[N:30],water,298.15,21.15468844845658,-30.736058257755285
4016,4601,[CH3:10][O:11][C:12](=[O:13])[CH-:14][NH+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:14]([C:12]([O:11][CH3:10])=[O:13])[NH:15][C:16]1([C:17]#[N:18])[C:19]([CH3:20])=[O:21],water,298.15,21.1053740200112,-7.516487846406206
5182,5880,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:27](=[O:28])[O:29][CH3:30])[NH:15][C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,23.94769151542533,-7.735900761936513
214,234,[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([CH3:17])[CH3:18].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:16]([CH3:17])([CH3:18])[NH:15][C:13]3([C:11]([NH:10][CH3:9])=[O:12])[CH3:14],water,298.15,16.740113828739016,-48.7871466612937
2121,2354,[CH3:1][C:2]([Br:3])=[C:4]([Br:5])[Br:6].[CH3:7][N-:8][N+:9]([CH3:10])=[C:11]([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([Br:3])[C:4]([Br:5])([Br:6])[C:11]([C:12]([CH3:13])=[O:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:9]([CH3:10])[N:8]1[CH3:7],water,298.15,30.62958957744771,-3.9438993407234073
3253,3676,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6]#[N+:7][C-:8]([C:9](=[O:10])[O:11][CH3:12])[C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:8]([C:9](=[O:10])[O:11][CH3:12])([C:13](=[O:14])[O:15][CH3:16])[N:7]=[C:6]1[CH3:5],water,298.15,21.29350898695901,-29.24547461176257
1833,2031,[CH3:15][O:16][C:17](=[O:18])[CH:19]=[N+:20]([CH3:21])[C-:22]([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:22]([C:23]#[N:24])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:20]([CH3:21])[CH:19]2[C:17]([O:16][CH3:15])=[O:18],water,298.15,14.666770323447247,-26.025039820518604
65,76,[CH3:10][N-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17].[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:13]([C:14]#[N:15])([C:16]#[N:17])[NH:12][N:11]2[CH3:10],water,298.15,27.994604551773524,-9.359124438628225
2987,3339,[CH3:9][CH:10]=[N+:11]([CH3:12])[NH-:13].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[NH:13][N:11]([CH3:12])[CH:10]1[CH3:9],water,298.15,19.157623254447547,-18.74252653580084
1659,1831,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:17]([C:15]([NH:14][CH3:13])=[O:16])[NH:18][C:19]3([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,15.703787147044784,-44.15388352214198
1275,1396,[CH3:13][n+:14]1[n:15][o:16][c:17](=[O:18])[c-:19]1-[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]1([c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[N:14]([CH3:13])[N:15]2[O:16][C:17]1=[O:18],water,298.15,37.69175945088449,4.9427881355119565
635,695,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20](=[O:21])[o:22]1>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:15]1([C:16](=[O:17])[NH:18][CH3:19])[NH:14][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[O:22][C:20]1=[O:21],water,298.15,19.38211030167433,-15.632931517391205
